US08227601B2
4-(5-benzyl-4-(mesityloxy)-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile
A stirred suspension of NaH (63.8 mg, 2.66 mmol) in dry NMP (1.5 mL) was added 4-aminobenzylnitrile (188 mg, 2.66 mmol) and stirred at room temperature for 30 min under argon. The reaction mixture was added to a solution of 5-benzyl-2-fluoro-4-(mesityloxy)-5H-pyrrolo[3,2-d]pyrimidine (115 mg, 0.32 mmol) in dry NMP (1.7 mL) and stirred at room temperature for 2 h. After completion of the reaction, the resulting mixture was diluted with water and washed with EtOAc 3 times. The combined organic layers were washed with water, NH4Cl, water×2, and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by column chromatography, eluting with 1% MeOH:CH2Cl2, which afforded the product as a tan solid (120 mg, 80%).

reactant | NaH | 2.66 mmol, 63.8 mg | [H-].[Na+]
reactant | 5-benzyl-2-fluoro-4-(mesityloxy)-5H-pyrrolo[3,2-d]pyrimidine | 0.32 mmol, 115 mg | C(C1=CC=CC=C1)N1C=CC=2N=C(N=C(C21)OC2=C(C=C(C=C2C)C)C)F | C22H20FN3O
reactant | NMP | 1.5 mL | CN1CCCC1=O | C5H9NO
reactant | NMP | 1.7 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 4-(5-benzyl-4-(mesityloxy)-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile | 120 mg, 80% | C(C1=CC=CC=C1)N1C=CC=2N=C(N=C(C21)OC2=C(C=C(C=C2C)C)C)NC2=CC=C(C#N)C=C2 | C29H25N5O
